US04067720
0.1 ml of triethylamine and 5 ml of methyl isocyanate were added to a solution of 7.5 g of 3-hydroxy-5-methylthio-1,2,4-thiadiazole in 50 ml of tetrahydrofuran and after stirring at 20° C for 3 hours, 25 ml of isopropyl ether were added. The mixture was vacuum filtered and the recovered crystals were washed, dried and crystallized from acetone to obtain 5.2 g of 2-(N-methylcarbamoyl)-5-methylthio-1,2,4-thiadiazole-3-one melting at 144° C.

reactant | triethylamine | 0.1 ml | C(C)N(CC)CC | C6H15N
reactant | methyl isocyanate | 5 ml | CN=C=O | C2H3NO
reactant | 3-hydroxy-5-methylthio-1,2,4-thiadiazole | 7.5 g | OC1=NSC(=N1)SC | C3H4N2OS2
reactant | isopropyl ether | 25 ml | C(C)(C)OC(C)C | C6H14O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-(N-methylcarbamoyl)-5-methylthio-1,2,4-thiadiazole-3-one | 5.2 g | CNC(=O)N1SC(=NC1=O)SC | C5H7N3O2S2
